US09255110B2
To a mixture of 1-[1-(4-chloro-2-nitro-phenyl)-pyrrolidin-3-yl]-ethylamine (127 mg, 0.47 mmol) in dichloromethane (ca. 5 mL) cooled at 0° C. was added di-tert-butyl-dicarbonate (113 mg) and the resulting mixture was stirred for 30 minutes at 0° C. The reaction mixture was then warmed up to room temperature and stirred for 2.5 hours. The resulting mixture was washed with a saturated aqueous solution of sodium bicarbonate and with brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified by flash chromatography (hexane/EtOAc, 90/10 to 50/50) to give 146 mg (84% yield) of {1-[1-(4-chloro-2-nitro-phenyl)-pyrrolidin-3-yl]-ethyl}-carbamic acid tert-butyl ester.

reactant | 1-[1-(4-chloro-2-nitro-phenyl)-pyrrolidin-3-yl]-ethylamine | 0.47 mmol, 127 mg | ClC1=CC(=C(C=C1)N1CC(CC1)C(C)N)[N+](=O)[O-] | C12H16ClN3O2
reactant | di-tert-butyl-dicarbonate | 113 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | ca. 5 mL | ClCCl | CH2Cl2
product | {1-[1-(4-chloro-2-nitro-phenyl)-pyrrolidin-3-yl]-ethyl}-carbamic acid tert-butyl ester | 146 mg, 84% yield | C(C)(C)(C)OC(NC(C)C1CN(CC1)C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C17H24ClN3O4
